US05104895
Reaction in pyridine (13 ml) of 1,4,7,10-tetraoxacyclo-dodecane-2-methanol (5 g) with p-toluenesulphonyl chloride (5 g) produces 1,4,7,10-tetraoxacyclododecane-2-methanol p-toluenesulphonate (8 g; m.p. 49°-51° C. from diethyl ether). Subsequent reaction with diethyl malonate (3.36 ml) and potassium tert-butoxide (3.47 g) in N-methyl pyrrolidone (30 ml) yields [(1,4,7,10-tetraoxacyclododecane-2-yl)methyl]-malonate diethyl ester as a viscous oil that is treated with aqueous lithium hydroxide 0.8 g) to obtain pure [(1,4,7,10-tetraoxacyclododecane-2-yl)methyl]-malonic acid N.M.R. (CDCl3): 2.08-2.19; 3.48-3.82; 9.38].

reactant | 1,4,7,10-tetraoxacyclo-dodecane-2-methanol | 5 g | O1C(COCCOCCOCC1)CO | C9H18O5
reactant | p-toluenesulphonyl chloride | 5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 1,4,7,10-tetraoxacyclododecane-2-methanol p-toluenesulphonate | 8 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1OCCOCCOCCOC1)C | C16H24O7S
